US08227492B2
Preparation of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(2-diethylamino-acetyl)sulfoximide hydrochloride
To a stirred solution of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(2-diethylamino-acetyl)sulfoximide (200 mg,0.3478 mmol) in DCM (5mL) was added 12% ethereal hydrochloric acid solution (115 mg,0.3826 mmol) at 10-15° C. After one hour, solvent was concentrated and product was stirred in ether. Filteration afforded 90 mg of desired product in 42% yield.

reactant | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(2-diethylamino-acetyl)sulfoximide | 0.3478 mmol, 200 mg | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NC(CN(CC)CC)=O)C | C26H27Cl2N5O4S
reactant | hydrochloric acid | 0.3826 mmol, 115 mg | Cl | ClH
solvent | DCM | 5mL | C(Cl)Cl | CH2Cl2
product | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(2-diethylamino-acetyl)sulfoximide hydrochloride | 90 mg, 42% yield | Cl.ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NC(CN(CC)CC)=O)C | InChI=1S/C26H27Cl2N5O4S.ClH/c1-4-33(5-2)16-24(34)32-38(3,37)20-10-6-17(7-11-20)25(35)30-22-12-8-18(27)14-21(22)26(36)31-23-13-9-19(28)15-29-23;/h6-15H,4-5,16H2,1-3H3,(H,30,35)(H,29,31,36);1H
